* D:\GitHub Repositories\IMMD\Project\3501\Furkan\Loss LTSpice\Loss.asc
L3 N015 0 {L_DPT}
R1 TopGate N006 {Rgon}
R2 TopGate N009 {Rgoff}
L10 N006 N005 {L_GATE}
L11 N009 N008 {L_GATE}
R3 BotGate N022 {Rgon}
R4 BotGate N026 {Rgoff}
L12 N022 N021 {L_GATE}
L13 N026 N025 {L_GATE}
S1 N005 N001 N002 N003 SW_GDH
S2 N003 N008 N003 N002 SW_GDL
S3 N021 N014 N016 N020 SW_GDH
S4 N020 N025 N020 N016 SW_GDL
V2 N001 TopSS {VDRV_P}
V3 TopSS N003 {VDRV_N}
V4 N014 BotSS {VDRV_P}
V5 BotSS N020 {VDRV_N}
V6 N002 N003 PULSE(-1 1 {DT} 1n 1n {T_ON-2*DT} {T_P} 2)
V7 N016 N020 PULSE(1 -1 0 1n 1n {T_ON} {T_P} 2)
XU2 BotGate BotDrain BotSource BotSS NC_01 N023 GS66508B_L3V2
XU1 TopGate TopDrain TopSource TopSS NC_02 N007 GS66508B_L3V2
L1 TopSource N015 3.724n
L2 N015 BotDrain 3.724n
C1 N004 N024 5e-6 IC={VBUS} Rser=23e-3 Lser=19.9e-9
L4 N010 N004 29.8n Rser=1037u
L5 0 N024 48.6n Rser=1422u
L6 TopDrain N004 7.14n Rser=854u
L7 N024 BotSource 5.658n Rser=664u
V1 N010 0 {VBUS}
C2 N013 N019 0.1µ Rser=17.5m Lser=0.75n IC={VBUS}
C3 N012 N018 0.1µ Rser=17.5m Lser=0.75n IC={VBUS}
C4 N011 N017 0.1µ Rser=17.5m Lser=0.75n IC={VBUS}
L8 N013 TopDrain 10n
L9 N012 TopDrain 10n
L14 N011 TopDrain 10n
L15 BotSource N017 12n
L16 BotSource N018 12n
L17 BotSource N019 12n
V8 N007 0 {temp}
V9 N023 0 {temp}
.model SW_GDH VSWITCH Roff=1e6 Ron=2 Voff=0 Von=1
.model SW_GDL VSWITCH Roff=1e6 Ron=4 Voff=0 Von=1
.tran 0 3U 0 0.1N
.option ITL1 = 500
.option ITL2 = 500
.option ITL4 = 500
.option RELTOL = 0.01
.option ABSTOL=1E-09
.option CHGTOL=1E-12
.option VNTOL=1E-6
.option GMIN=1E-15
.option TRTOL=1
.option noopiter
.option gminsteps=0
.option topologycheck=0
.option temp=25
.param VBUS=75
.param ISW=1e-6
.param Rgon=10
.param Rgoff = 2
.param VDRV_P=6
.param VDRV_N=3
.param DT=100n
.param T_ON=2U
.param L_DPT=VBUS*(T_ON-2*DT)/ISW
.param T_P = 2.5U
.param L_GATE = 1N
.param LS_EX = 10p
.param L_DS=3n
.MEAS TopStress MAX V(TopDrain,TopSource)
.MEAS BotStress MAX V(BotDrain,BotSource)
.lib GaN_LTspice_GS66508B_L3V2.lib
.backanno
.end
