* D:\GitHub Repositories\IMMD\Project\3501\Furkan\Loss LTSpice\Loss.asc
L3 N016 N026 {L_DPT}
R1 N008 N007 {Rgon}
R2 N008 N010 {Rgoff}
L10 N007 N006 {L_GATE}
L11 N010 N009 {L_GATE}
R3 N027 N023 {Rgon}
R4 N027 N029 {Rgoff}
L12 N023 N022 {L_GATE}
L13 N029 N028 {L_GATE}
S1 N006 N002 N003 N004 SW_GDH
S2 N004 N009 N004 N003 SW_GDL
S3 N022 N015 N017 N021 SW_GDH
S4 N021 N028 N021 N017 SW_GDL
V2 N002 N001 {VDRV_P}
V3 N001 N004 {VDRV_N}
V4 N015 N024 {VDRV_P}
V5 N024 N021 {VDRV_N}
V6 N003 N004 PULSE(-1 1 {DT} 1n 1n {T_ON-2*DT} {T_P} 2)
V7 N017 N021 PULSE(1 -1 0 1n 1n {T_ON} {T_P} 2)
XU2 N027 BotDrain 0 N024 JunctionBot JunctionBot GS66508B_L3V2
XU1 N008 TopDrain TopSource N001 JunctionTop JunctionTop GS66508B_L3V2
L1 TopSource N016 3.724n
L2 N016 BotDrain 3.724n
C1 N005 N025 5e-6 IC={VBUS} Rser=23e-3 Lser=19.9e-9
L4 N011 N005 29.8n Rser=1037u
L5 N026 N025 48.6n Rser=1422u
L6 TopDrain N005 7.14n Rser=854u
L7 N025 0 5.658n Rser=664u
V1 N011 N026 {VBUS}
C2 N014 N020 0.1µ Rser=17.5m Lser=0.75n IC={VBUS}
C3 N013 N019 0.1µ Rser=17.5m Lser=0.75n IC={VBUS}
C4 N012 N018 0.1µ Rser=17.5m Lser=0.75n IC={VBUS}
L8 N014 TopDrain 10n
L9 N013 TopDrain 10n
L14 N012 TopDrain 10n
L15 0 N018 12n
L16 0 N019 12n
L17 0 N020 12n
V8 JunctionTop 0 {temp}
V9 JunctionBot 0 {temp}
.model SW_GDH VSWITCH Roff=1e6 Ron=2 Voff=0 Von=1
.model SW_GDL VSWITCH Roff=1e6 Ron=4 Voff=0 Von=1
.tran 0 8U 0
.option ITL1 = 500
.option ITL2 = 500
.option ITL4 = 500
.option RELTOL = 0.01
.option ABSTOL=1E-09
.option CHGTOL=1E-12
.option VNTOL=1E-6
.option GMIN=1E-15
.option TRTOL=1
.option noopiter
.option gminsteps=0
.option topologycheck=0
.option temp=150
.param VBUS = 270
.param ISW=11.3
.param Rgon=20
.param Rgoff = 2
.param VDRV_P=6
.param VDRV_N=3
.param DT=100n
.param T_ON=4U
.param L_DPT=VBUS*(T_ON-2*DT)/ISW
.param T_P = 6U
.param L_GATE = 3N
.param LS_EX = 10p
.param L_DS=3n
.lib GaN_LTspice_GS66508B_L3V2.lib
.backanno
.end
